US07994164B2
Tert-butyl 2,5-dihydro-1H-pyrrole-1-carboxylate
Add a solution of di-tert-butyl dicarbonate (0.69 mol, 151.0 g) in methylene chloride (200 mL) dropwise to a solution of 3-pyrroline (40.0 g, 0.57 mol) in methylene chloride (400 mL) over a period of 1.5 h at 0° C. and stir at room temperature for 10 h. Remove the solvent and carry the crude product on to the next step, Preparation 47 (95.0 g, 98%).

reactant | di-tert-butyl dicarbonate | 0.69 mol, 151.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-pyrroline | 0.57 mol, 40.0 g | N1CC=CC1 | C4H7N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl 2,5-dihydro-1H-pyrrole-1-carboxylate | N1(CC=CC1)C(=O)OC(C)(C)C | C9H15NO2
